US08304036B2
27.5 ml (0.16 mol) of TMP are initially introduced at −20° C. in 100 ml of THF, and 100 ml (0.16 mol, 15% soln. in hexane) of n-BuLi are metered in. After 30 min at this temperature, a solution of 50.2 g (0.15 mol) of 2-(4′-ethyl-3-fluorobiphenyl-4-yl)selenophene in 400 ml of THF is added. When the addition is complete, the batch is warmed to RT and left at this temperature for 30 min. The solution is cooled to −70° C., and 17.0 ml (0.17 mol) of N-formylmorpholine are added. The reaction mixture is warmed to RT and stirred for 1 h. the solution is diluted with a lot of dichloromethane, and 2 N hydrochloric acid is added. The mixture is washed with water, and the organic phase is separated off. The aqueous phase is extracted with dichloromethane, and the combined organic phases are washed with sat. sodium chloride soln. The solution is dried using sodium sulfate and concentrated to dryness. The residue is taken up in dichloromethane and purified by column chromatography (SiO2, toluene). The further purification is carried out by recrystallisation from toluene. 5-(4′-Ethyl-3-fluorobiphenyl-4-yl)selenophene-2-carbaldehyde is obtained as a brown solid.

reactant | n-BuLi | 0.16 mol, 100 ml | [Li]CCCC
reactant | 2-(4′-ethyl-3-fluorobiphenyl-4-yl)selenophene | 0.15 mol, 50.2 g | C(C)C1=CC=C(C=C1)C1=CC(=C(C=C1)C=1[Se]C=CC1)F | C18H15FSe
reactant | N-formylmorpholine | 0.17 mol, 17.0 ml | C(=O)N1CCOCC1 | C5H9NO2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | hydrochloric acid | 2 N | Cl | ClH
product | 5-(4′-Ethyl-3-fluorobiphenyl-4-yl)selenophene-2-carbaldehyde | C(C)C1=CC=C(C=C1)C1=CC(=C(C=C1)C1=CC=C([Se]1)C=O)F | C19H15FOSe
